US04046909
The hydrochloride salt of 2-imino-1-methylpiperidine (7.60 g.; 0.068 mole) is converted to free base by adding 7 ml. of NaOH (50%) to an aqueous slurry (using a minimal amount of water) of the salt and then extracting with benzene. After drying over K2CO3, the benzene solution is filtered through diatomaceous earth. A benzene solution of 12.73 g. (0.068 mole) of p-trifluoromethylphenylisocyanate [prepared according to Inukai and Maki, Kogyo Kagaku Zasshi, 67 (5) 807-9 (1964] is added to the above solution slowly. After 4 hours of stirring at room temperature, the benzene is evaporated in vacuo to give a solid residue. Repeated recrystallizatons of the solid from methanol yields the pure product, 1-(1-methyl-2-piperidylidene)-3-(4-trifluoromethylphenyl)urea, m.p. = 154°-155° C.

reactant | 2-imino-1-methylpiperidine | 0.068 mole, 7.60 g | N=C1N(CCCC1)C | C6H12N2
reactant | NaOH | [OH-].[Na+]
reactant | water | O | H2O
reactant | p-trifluoromethylphenylisocyanate | 0.068 mole | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | methanol | CO | CH4O
product | 1-(1-methyl-2-piperidylidene)-3-(4-trifluoromethylphenyl)urea | CN1C(CCCC1)=NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C14H16F3N3O
